US05886178
6-(2-Fluorobenzyl)-3-chloropyridazine (2.5 g, 11.2 mmol) [prepared as described above] was dissolved in acetic acid (15 ml). Sodium acetate (3.37 g, 24.8 mmol) was added and the reaction mixture was heated at 110° C. under a nitrogen atmosphere. After 1.5 h the reaction mixture was diluted with water and the product was extracted into ethyl acetate. The organic extracts were washed with water, aqueous NaHCO3 and brine, and dried over MgSO4. The solvent was removed in vacuo and the crude product was chromatographed on a silica gel column (50% ethyl acetate in hexanes) to give 6-(2-fluorobenzyl)-2H-pyridazin-3-one (1.5 g, 55% yield) as a yellow solid.

reactant | 6-(2-Fluorobenzyl)-3-chloropyridazine | 11.2 mmol, 2.5 g | FC1=C(CC2=CC=C(N=N2)Cl)C=CC=C1 | C11H8ClFN2
reactant | Sodium acetate | 24.8 mmol, 3.37 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 6-(2-fluorobenzyl)-2H-pyridazin-3-one | 1.5 g, 55% yield | FC1=C(CC=2C=CC(NN2)=O)C=CC=C1 | C11H9FN2O
